US07230011B2
2,6-Difluorobenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester
By a method similar to Example 31, using 2,6-difluorobenzenesulfonyl chloride (256 mg, 1.2 mmol) and 3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole (231 mg, 1.0 mmol), and 0.2 N sodium hydroxide (5.5 mL, 1.1 mmol) gave 400 mg (98%) of the title compound as an off white powder were obtained. The product was recrystallized from ethyl acetate/methanol/hexanes: mp=214-215° C.; MS(m/e): 407 (M+1); Calculated for C20H20F2N2O3S: C, 59.10; H, 4.96; N, 6.89. Found: C, 59.07; H, 5.16; N, 6.73.

reactant | 2,6-difluorobenzenesulfonyl chloride | 1.2 mmol, 256 mg | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | 3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole | 1.0 mmol, 231 mg | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)O | C14H18N2O
reactant | sodium hydroxide | 1.1 mmol, 0.2 N, 5.5 mL | [OH-].[Na+]
product | 2,6-Difluorobenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester | 400 mg, 98% | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)OS(=O)(=O)C1=C(C=CC=C1F)F | C20H20F2N2O3S
